US09102671B2
A solution of 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-53) (10 mg, 0.02 mmol) in DCM (0.5 mL) was added TFA (0.5 mL) and heated to 50° C. for 12 hours. The reaction was reduced to dryness and purified by column chromatography on silica gel with DCM/MeOH gradient as eluant to yield 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (X-10). 1H NMR (400 MHz, CD3OD) δ 8.28 (d, J=8.0 Hz, 1 H), 8.23 (s, 1 H), 7.61 (m, 1 H), 7.48-7.42 (m, 1 H), 7.03 (d, J=2.4 Hz, 1 H), 6.52 (dd, J=2.8, 7.6 Hz, 1 H), 5.42 (d, J=52.4 Hz, 1 H), 5.14 (dd, J=7.2, 9.6 Hz, 1 H), 4.21 (ddd, J=3.2, 12.0, 36.8 Hz, 1 H), 3.94 (ddd, J=2.0, 12.4, 23.6 Hz, 1 H), 2.98-2.85 (m, 1 H), 2.16 (dddd, J=3.6, 9.6, 14.0, 40.4 Hz, 1 H). MS m/z 368.1 (M+1)+.

reactant | 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.02 mmol, 10 mg | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C35H31F2N5O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)N | C19H15F2N5O
